### ISSUE TITLE
[`SimpleGraph`] Longest paths in acyclic graphs are between leaves

### ISSUE THREAD

**Issue by SnirBroshi** [SnirBroshi/mathlib4#15]
```lean
import Mathlib.Combinatorics.SimpleGraph.Acyclic
import Mathlib.Combinatorics.SimpleGraph.Diam
namespace SimpleGraph
variable {V : Type*} {G : SimpleGraph V}

/-- A longest path in a forest starts from a leaf -/
lemma IsAcyclic.subsingleton_neighborSet_start_of_coe_length_eq_ediam (h : G.IsAcyclic) {u v : V}
    {p : G.Walk u v} (hp : p.IsPath) (hl : p.length = G.ediam) :
    G.neighborSet u |>.Subsingleton := by
  sorry

/-- A longest path in a forest ends at a leaf -/
lemma IsAcyclic.subsingleton_neighborSet_end_of_coe_length_eq_ediam (h : G.IsAcyclic) {u v : V}
    {p : G.Walk u v} (hp : p.IsPath) (hl : p.length = G.ediam) :
    G.neighborSet v |>.Subsingleton := by
  sorry

/-- A longest path from a vertex in a forest ends at a leaf -/
lemma IsAcyclic.subsingleton_neighborSet_of_coe_length_eq_eccent (h : G.IsAcyclic) {u v : V}
    {p : G.Walk u v} (hp : p.IsPath) (hl : p.length = G.eccent u) :
    G.neighborSet v |>.Subsingleton := by
  sorry
```
